US04514416
Synthesis of 4-amidino-2-benzoylphenyl 3-benzyloxycarbonylaminopropionate
Into 50 ml of anhydrous pyridine, was dissolved 3.3 g of 3-benzyloxycarbonylaminopropionic acid. To the solution, while being cooled in ice, was added 3.7 g of DCC. The mixture was stirred for 30 minutes. After addition of 5.0 g of 4-amidino-2-benzoylphenol methanesulfonate, the mixture was further stirred overnight. The precipitate which was formed was separated by filtration and washed with pyridine. Ethyl ether was added to the filtrate to separate an oily substance which solidified upon stirring. The solidified substance was collected by filtration, washed with ethyl ether, and dissolved in DMF. The crystals precipitated out of the DMF solution by the addition of ethyl ether were recrystallized from ethanol to yield 3.9 g of colorless granular crystals of 4-amidino-2-benzoylphenyl 3-benzyloxycarbonylaminopropionate methanesulfonate.

reactant | 3-benzyloxycarbonylaminopropionic acid | 3.3 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)O | C11H13NO4
reactant | DCC | 3.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-amidino-2-benzoylphenol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=C(C=C(C=C1)C(N)=N)C(C1=CC=CC=C1)=O | C15H14N2O4S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-amidino-2-benzoylphenyl 3-benzyloxycarbonylaminopropionate | 3.9 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)OC1=C(C=C(C=C1)C(N)=N)C(C1=CC=CC=C1)=O | C25H23N3O5
